US09422298B2
Huning's base (1.18 mL, 6.77 mmol) was added to a solution of 6-chloropyrido[3,2-d]pyrimidin-4(3H)-one (820 mg, 4.52 mmol) in POCl3 (8.42 mL, 90.0 mmol) at room temperature, and the reaction mixture was heated at 110° C. for 5 h. After cooled to room temperature, the excess POCl3 was removed by evaporation. Toluene was added to the residue, and the azeotrope was removed under reduced pressure. DCM was poured into the residue, and the suspension was treated carefully with aq. NaHCO3 at 0° C. to pH 7˜9. The insoluble solid was filtered off, and the filtrate was extracted with DCM. The combined organic layers were dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by column chromatography (DCM:EtOAc=10:1) to give 4,6-dichloropyrido[3,2-d]pyrimidine (780 mg, 86%) as a pale yellow solid. 1H-NMR (CDCl3, Varian 400 MHz) δ 7.86 (1H, d, J=8.8 Hz), 8.34 (1H, d, J=8.8 Hz), 9.14 (1H, s). m/z=199.01 [M+1]+.

reactant | 6-chloropyrido[3,2-d]pyrimidin-4(3H)-one | 4.52 mmol, 820 mg | ClC=1C=CC=2N=CNC(C2N1)=O | C7H4ClN3O
reactant | POCl3 | 90.0 mmol, 8.42 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4,6-dichloropyrido[3,2-d]pyrimidine | 780 mg, 86% | ClC=1C2=C(N=CN1)C=CC(=N2)Cl | C7H3Cl2N3
